US07456164B2
4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (500 mg, 1.6 mmol) and TosMIC (340 mg, 1.7 mmol) were dissolved in EtOH (20 ml), to which NaCN (12 mg, 0.25 mmol) was added. The solution immediately turned pale yellow and was allowed to stir for 2 hours at room temperature. The solvent was removed in vacuo and the residue was taken up in DCM (10 ml) and washed with saturated sodium bicarbonate solution (15 ml), followed by brine (15 ml). The organic layer was dried over Na2SO4 and concentrated in vacuo to afford 5-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-yl}-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole as a pale brown foam (500 mg). LRMS ESI+ m/z 513 [MH]+

reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde | 1.6 mmol, 500 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=O | C19H27NO3
reactant | TosMIC | 1.7 mmol, 340 mg | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.25 mmol, 12 mg | [C-]#N.[Na+]
solvent | EtOH | 20 ml | CCO | C2H6O
product | 5-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-yl}-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazole | 500 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C1C(N=CO1)S(=O)(=O)C1=CC=C(C=C1)C | C28H36N2O5S
